US06008363
To a mixture of O-methyl-N-nitroisourea (2.0 g, 0.0168 mol), 36% hydrochloric acid (1.5 ml), sodium chloride (8.0 g), and water (40 ml) was added 5-aminomethyl-2-chlorothiazole (2.5 g, 0.0168 mol) at 20° C. This mixture was adjusted to pH 7 with 30% aqueous solution of sodium hydroxide and stirred at room temperature for 13 hours. Then, 40% aqueous solution of methylamine (4.4 ml, 0.0511 mol) was added and the mixture was stirred at room temperature for 2 hours. The resulting crystals were collected by filtration, washed with water, and dried to provide 1.54 g (36.7% yield) of 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitroguanidine.

reactant | O-methyl-N-nitroisourea | 0.0168 mol, 2.0 g | COC(N[N+](=O)[O-])=N | C2H5N3O3
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | sodium chloride | 8.0 g | [Cl-].[Na+]
reactant | 5-aminomethyl-2-chlorothiazole | 0.0168 mol, 2.5 g | NCC1=CN=C(S1)Cl | C4H5ClN2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methylamine | 0.0511 mol, 4.4 ml | CN | CH5N
solvent | water | 40 ml | O | H2O
product | 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitroguanidine | 1.54 g, 36.7% yield | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])NC | C6H8ClN5O2S
